US09062070B2
A mixture of 5-bromo-4-cyclopropyl-2-benzofuran-1(3H)-one (760 mg, 3.004 mmol), potassium vinyltrifluoroborate (805 mg, 6.008 mmol) and Pd(dppf)Cl2 (100 mg) in 20 mL of TEA and 20 mL of EtOH was heated to reflux under N2 for 8 hours. When TLC showed complete reaction most of the solvent was removed, and the residue was dissolved in EtOAc (100 mL). The solution was washed with 0.1 N HCl, sodium bicarbonate, and brine, dried over sodium sulfate, filtered and concentrated. The resulting oil was purified by column chromatography to give 4-cyclopropyl-5-vinyl-2-benzofuran-1(3H)-one.

reactant | 5-bromo-4-cyclopropyl-2-benzofuran-1(3H)-one | 3.004 mmol, 760 mg | BrC1=C(C2=C(C(OC2)=O)C=C1)C1CC1 | C11H9BrO2
reactant | potassium vinyltrifluoroborate | 6.008 mmol, 805 mg | C(=C)[B-](F)(F)F.[K+]
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd(dppf)Cl2 | 100 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-cyclopropyl-5-vinyl-2-benzofuran-1(3H)-one | C1(CC1)C1=C(C=CC=2C(OCC21)=O)C=C | C13H12O2
